US05705499
c) N-(2,6-Dichloro-3-pyridinyl)-2-ethylamino-3-pyridinecarboxamide
A mixture of N-(2,6-dichloro-3-pyridinyl)-2-chloro-3-pyridinecarboxamide (12.0 g, 39.8 mmol), ethylamine (3.6 g, 80.7 mmol), and 30 mL of xylenes in a sealed vessel was heated at 165° C. for 6 hours. The reaction mixture was cooled to room temperature and extracted with ethyl acetate to give 7.4 g of the title compound, suitable for use in the next reaction.

reactant | N-(2,6-dichloro-3-pyridinyl)-2-chloro-3-pyridinecarboxamide | 39.8 mmol, 12.0 g | ClC1=NC(=CC=C1NC(=O)C=1C(=NC=CC1)Cl)Cl | C11H6Cl3N3O
reactant | ethylamine | 80.7 mmol, 3.6 g | C(C)N | C2H7N
product | N-(2,6-Dichloro-3-pyridinyl)-2-ethylamino-3-pyridinecarboxamide | 7.4 g | ClC1=NC(=CC=C1NC(=O)C=1C(=NC=CC1)NCC)Cl | C13H12Cl2N4O
